US05093370
To 40 ml of triethylamine were added 3.68 g of methyl p-iododihydrocinnamate, 1.49 g of 5-hexyl-1-ol, 40 ml of cuprous iodide and 77 mg of bis(triphenylphosphine)-palladium chloride, and the mixture was stirred under nitrogen flow for 2.5 hours. After adding 50 ml of ethyl acetate, the mixture was filtered to remove the resulting precipitate, washed three-times with 30 ml of water, dried over magnesium sulfate, and evaporated under a reduced pressure to obtain 4.0 g of methyl p-(6-hydroxy-1-hexynyl)dihydrocinnamate as an oil. 4.0 g of this oil was stirred with 1.2 g of 5% palladium on carbon in 50 ml of methanol under a hydrogen atmosphere to obtain 2.41 g of methyl p-(6-hydroxyhexyl)dihydrocinnamate. To this compound was added 1.0 g of phosphorus tribromide with ice-cooling, and the mixture was heated at 80° C. for 2 hours, poured into 50 ml of ice-water. The mixture was extracted twice with 50 ml of ethyl acetate, dried over magnesium sulfate and evaporated under a reduced pressure to obtain a residue, which was then applied to a silica gel column and eluted with chloroform/hexane (1:1) to obtain 2.1 g of the title compound as a colorless oil.

reactant | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
reactant | methyl p-iododihydrocinnamate | 3.68 g | IC1=CC=C(CCC(=O)OC)C=C1 | C10H11IO2
catalyst | bis(triphenylphosphine)-palladium chloride | 77 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | methyl p-(6-hydroxy-1-hexynyl)dihydrocinnamate | 4.0 g | OCCCCC#CC1=CC=C(CCC(=O)OC)C=C1 | C16H20O3
